US08389510B2
The above procedure was repeated for an additional four aqueous solutions of 11-piperazin-1-yldibenzo[b,f][1,4]thiazepine hydrochloride and the five resulting toluene solutions were combined and evaporated to dryness on a rotary evaporator. The resulting hard solid was then charged to a jacketed vessel and slurried with methyl-t-butyl ether (MTBE) (500 mL). The resulting slurry was stirred overnight at ambient temperature and then cooled to 5° C. and held for 4 h. The solid 11-piperazin-1-yldibenzo[b,f][1,4]thiazepine product was isolated on a no. 3 sinter and washed with 200 mL of cold MTBE. The cake was dried in a vacuum oven overnight at 60° C. yielding 373 g of product.

reactant | 11-piperazin-1-yldibenzo[b,f][1,4]thiazepine hydrochloride | Cl.N1(CCNCC1)C1=NC2=C(SC3=C1C=CC=C3)C=CC=C2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 11-piperazin-1-yldibenzo[b,f][1,4]thiazepine | N1(CCNCC1)C1=NC2=C(SC3=C1C=CC=C3)C=CC=C2 | C17H17N3S
